US06586421B2
(5aS*,10bS*)-10-(3-phenoxypropyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
Following the procedure for the preparation of 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride, making non-critical variations, starting from 10-(3-phenoxypropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole the title compound was prepared: 1H NMR (CDCl3) δ 2.02-2.14, 2.27, 2.74, 2.90-3.03, 3.45, 3.50, 3.98, 4.14, 4.50, 6.47, 6.63, 6.91, 6.95, 7.03, 7.30. HRMS (FAB) calcd for C21H26N2O (MH+) 323.2123, found 323.2104.

reactant | 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2C3C(NC2C=CC1)CCNCC3
reactant | 10-(3-phenoxypropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | O(C1=CC=CC=C1)CCCC=1C=2C3=C(NC2C=CC1)CCNCC3 | C21H24N2O
product | (5aS*,10bS*)-10-(3-phenoxypropyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | O(C1=CC=CC=C1)CCCC=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | C21H26N2O
